US05338743
To an ice-cooled solution of 3-[2-(2-aminoethyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]-pyridine (1.5 g), triethylamine (1.5 ml), and N,N-dimethylformamide (15 ml) was added ethyl 2-bromoacetate (0.60 ml), and the mixture was stirred for 1 hour at room temperature. The reaction mixture was concentrated, and the residue was partitioned between chloroform and water. The organic layer was separated, washed with sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and concentrated. Purification of the residue by column chromatography on silica gel (gradient elution, using 50:1 and 25:1 mixture of chloroform and methanol) gave 3-[2-{2-(ethoxycarbonylmethylamino)ethyl}-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (0.90 g).

reactant | 3-[2-(2-aminoethyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]-pyridine | 1.5 g | NCCN1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C19H17N5O
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-bromoacetate | 0.60 ml | BrCC(=O)OCC | C4H7BrO2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-[2-{2-(ethoxycarbonylmethylamino)ethyl}-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 0.90 g | C(C)OC(=O)CNCCN1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C23H23N5O3
